// technology : X-FAB XH035
// device     : nmos

simulator lang=spectre
global 0

parameters L=1.0u Vb=0.0 Vg=0.0 Vd=0.0 Vs=0.0 W=1.0u Vdd=1.2

include "../pdk/ptm130.scs"
//include "../pdk/ptm090.scs"
//include "../pdk/ptm065.scs"
//include "../pdk/ptm045.scs"
//include "../pdk/ptm032.scs"

save W L M temp \
     M0:vds M0:vgs M0:vbs M0:vdsat M0:vth \
     M0:gm M0:id M0:gds M0:gmbs \
     M0:self_gain M0:fug M0:gmoverid \
     M0:cbb M0:csb M0:cdb M0:cgb \
     M0:css M0:csd M0:csg M0:cds \
     M0:cdd M0:cdg M0:cbs M0:cbd \
     M0:cbg M0:cgd M0:cgs M0:cgg \

M0 (D G S B) nmos m=1 w=W l=L 

VD (D S) vsource dc=Vd type=dc
VG (G S) vsource dc=Vg type=dc
VS (S 0) vsource dc=Vs type=dc
VB (B S) vsource dc=Vb type=dc

simulatorOptions options save=selected rawfmt=nutbin

width sweep param=W start=150n stop=50u dec=2 {
    length sweep param=L start=100n stop=20u dec=5 {
        bulk sweep param=Vb start=Vs stop=-1.0 step=-0.2 {
            drain sweep param=Vd start=Vs stop=Vdd step=0.1 {
                dc dc param=Vg start=Vs stop=Vdd step=0.1 
            }
        }   
    }
}
